US05250517
340 g (2.5 mmol) of zinc chloride were added in one portion to a solution of 217 g (1.67 mol) of 2,5-dimethoxy-2,5-dihydrofuran, 1500 ml (10 mol) of malonic acid diethyl ester, 167 ml of Water and 330 ml of glacial acetic acid. The temperature rose to 35°. The dark solution was stirred at room temperature overnight, poured onto ice, extracted three times with diethyl ether, washed in succession with saturated sodium bicarbonate and sodium chloride solutions, and finally dried. After evaporating the excess malonic acid diethyl ester (70°/13 Pa), the remaining oil was distilled over a Vigreux column, to obtain 109.2 g (29%) of 2-furylmalonic acid diethyl ester (purity 94%), boiling point 100°-110°/39 Pa.

reactant | 2,5-dimethoxy-2,5-dihydrofuran | 1.67 mol, 217 g | COC1OC(C=C1)OC | C6H10O3
reactant | malonic acid diethyl ester | 10 mol, 1500 ml | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | Water | 167 ml | O | H2O
catalyst | zinc chloride | 2.5 mmol, 340 g | [Cl-].[Zn+2].[Cl-]
solvent | acetic acid | 330 ml | C(C)(=O)O | C2H4O2
product | 2-furylmalonic acid diethyl ester | 109.2 g, 29% | C(C)OC(C(C(=O)OCC)C=1OC=CC1)=O | C11H14O5
